US07846959B2
To a solution of 5-chloro-1,2-difluoro-3-nitrobenzene (1.62 g, 8.4 mmol) in acetic acid (30 mL) was added tin(II) dichloride dihydrate (11.4 g, 50.4 mmol). The mixture was stirred for 1.25 h at rt, and then the acetic acid was removed in vacuo. The residue was transferred to a 500-mL Erlenmeyer flask in a minimal amount of ethyl acetate. The resulting suspension was then diluted with approximately 200 mL of ether, and then the flask was placed into an ice bath. To the vigorously stirring mixture was added 50% aqueous sodium hydroxide (10 mL), and a pale yellow solid formed. Celite and sodium sulfate were added to adsorb and dry the precipitate. All the solids were removed by filtration, rinsed with ethyl acetate, and discarded. The filtrate was concentrated, and the residue was purified by flash chromatography (80% hexanes:20% ethyl acetate). The desired 5-chloro-2,3-difluoroaniline was isolated as an orange oil (913 mg, 5.6 mmol, 66% yield). 1H NMR (400 MHz, CDCl3): 6.57-6.52 (m, 2H), 3.91 (br s, 2H); GCMS for C6H4ClF2N: 163 (M+).

reactant | 5-chloro-1,2-difluoro-3-nitrobenzene | 8.4 mmol, 1.62 g | ClC=1C=C(C(=C(C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
reactant | tin(II) dichloride dihydrate | 50.4 mmol, 11.4 g | O.O.[Sn](Cl)Cl
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 5-chloro-2,3-difluoroaniline | ClC=1C=C(C(=C(N)C1)F)F | C6H4ClF2N
